US06544985B2
{4-Chloro-5-[(2-methoxy-ethyl)-methyl-amino]-2-[3-oxo-3-(3-[1,2,3]triazol-1-yl-phenyl)-propionylamino]-phenyl}-carbamic acid tert.-butyl ester
The title compound was prepared from {2-amino-4-chloro-5-[(2-methoxy-ethyl)-methyl-amino]-phenyl}-carbamic acid tert.-butyl ester (Example J4) (165 mg, 0.5 mmol) and 3-oxo-3-(3-[1,2,3]triazol-1-yl-phenyl)-propionic acid ethyl ester (Example K1) (165 mg, 0.5 mmol) according to the general procedure M. Obtained as an amorphous yellow substance (167 mg).

reactant | {2-amino-4-chloro-5-[(2-methoxy-ethyl)-methyl-amino]-phenyl}-carbamic acid tert.-butyl ester | 0.5 mmol, 165 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)CCOC)Cl)N)=O | C15H24ClN3O3
reactant | 3-oxo-3-(3-[1,2,3]triazol-1-yl-phenyl)-propionic acid ethyl ester | 0.5 mmol, 165 mg | C(C)OC(CC(C1=CC(=CC=C1)N1N=NC=C1)=O)=O | C13H13N3O3
product | {4-Chloro-5-[(2-methoxy-ethyl)-methyl-amino]-2-[3-oxo-3-(3-[1,2,3]triazol-1-yl-phenyl)-propionylamino]-phenyl}-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)CCOC)Cl)NC(CC(C1=CC(=CC=C1)N1N=NC=C1)=O)=O)=O | C26H31ClN6O5
